US09079866B2
5-{2′-[(3,3-Difluoropyrrolidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-3,3-difluoropyrrolidine. MS (ESI): mass calcd. for C20H17F3N4O2S, 434.10; m/z found, 435.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.35 (d, J=1.3, 1H), 8.27 (d, J=1.4, 1H), 8.11 (d, J=7.9, 1H), 7.99 (m, 1H), 7.77-7.69 (m, 1H), 7.67-7.59 (m, 1H), 7.47-7.40 (m, 1H), 7.34-7.25 (m, 2H), 3.23 (t, J=12.9, 2H), 3.14 (t, J=7.3, 2H), 2.28-2.14 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-3,3-difluoropyrrolidine | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CC1)(F)F | C10H10BrF2NO2S
product | 5-{2′-[(3,3-Difluoropyrrolidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | FC1(CN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)F | C20H17F3N4O2S
